US07897792B2
Dimethylcarbamic acid 6-chloro-4-(2-hydroxypropyl)-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester
Sodium borohydride (49 mg, 1.30 mmol) was added to a solution of dimethylcarbamic acid 6-chloro-3-(3-nitrobenzyl)-2-oxo-4-(2-oxopropyl)-2H-1-benzopyran-7-yl ester (compound 7f-1-3CO) (300 mg, 0.65 mmol) in anhydrous THF (5.0 mL), and the mixture was stirred at 0° C. for 2 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate, and the title compound (280 mg, 93%) was obtained as a pale yellow powder.

reactant | Sodium borohydride | 1.30 mmol, 49 mg | [BH4-].[Na+]
reactant | dimethylcarbamic acid 6-chloro-3-(3-nitrobenzyl)-2-oxo-4-(2-oxopropyl)-2H-1-benzopyran-7-yl ester | 0.65 mmol, 300 mg | ClC=1C(=CC2=C(C(=C(C(O2)=O)CC2=CC(=CC=C2)[N+](=O)[O-])CC(C)=O)C1)OC(N(C)C)=O | C22H19ClN2O7
reactant | water | O | H2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Dimethylcarbamic acid 6-chloro-4-(2-hydroxypropyl)-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 280 mg, 93% | ClC=1C(=CC2=C(C(=C(C(O2)=O)CC2=CC(=CC=C2)[N+](=O)[O-])CC(C)O)C1)OC(N(C)C)=O | C22H21ClN2O7
